US08017607B2
To a mixture of 4-aminomethyl-2-methoxy-benzoic acid methyl ester (149 mg, 0.763 mmol) in N,N-dimethyl formamide (4.0 mL) was added 1,1′-carbonyldiimidazole (Aldrich, 127 mg, 0.762 mmol). After it was stirred at rt for 16 hrs under an argon atmosphere, the reaction mixture was extracted with EtOAc, and washed with water (2×), and saturated NaCl. The organic phase was separated, dried over Na2SO4, filtered and concentrated to give 4-{[(imidazole-1-carbonyl)-amino]-methyl}-2-methoxy-benzoic acid methyl ester (224.3 mg, 101% crude) which was used without further purification.

reactant | 4-aminomethyl-2-methoxy-benzoic acid methyl ester | 0.763 mmol, 149 mg | COC(C1=C(C=C(C=C1)CN)OC)=O | C10H13NO3
reactant | 1,1′-carbonyldiimidazole | 0.762 mmol, 127 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethyl formamide | 4.0 mL | CN(C=O)C | C3H7NO
product | 4-{[(imidazole-1-carbonyl)-amino]-methyl}-2-methoxy-benzoic acid methyl ester | 224.3 mg, 101% | COC(C1=C(C=C(C=C1)CNC(=O)N1C=NC=C1)OC)=O | C14H15N3O4
